US07625908B2
N-[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[2-(ethylamino)ethoxy]quinazolin-4-amine (58 mg) in DCM (3 ml) was treated with acetyl chloride (15 mg) and DIPEA (39 mg) and stirred overnight. The solution was purified by chromatography using DCM to 10% 7N ammonia in methanol in DCM to give after trituration with diethyl ether N-{2-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethyl}-N-ethylacetamide (39 mg, 61%); NMR spectrum (DMSO-d6) 1.12 (t, 3H), 1.98 (s, 3H), 3.37-3.42 (m, 2H), 3.87 (t, 2H), 4.39 (t, 2H), 5.31 (s, 2H), 7.16 (d, 1H), 7.22-7.28 (m, 1H), 7.33-7.39 (m, 2H), 7.55-7.61 (m, 2H), 7.71-7.75 (m, 1H), 7.87-7.91 (m, 1H), 7.94 (d, 1H), 8.45 (s, 1H), 8.61 (d, 1H), 9.80 (s, 1H); Mass spectrum MH+ 492.

reactant | N-[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[2-(ethylamino)ethoxy]quinazolin-4-amine | 58 mg | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OCCNCC | C24H24ClN5O2
reactant | acetyl chloride | 15 mg | C(C)(=O)Cl | C2H3ClO
reactant | DIPEA | 39 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | diethyl ether N-{2-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethyl}-N-ethylacetamide | 39 mg, 61% | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OCCN(C(C)=O)CC.C(C)OCC | InChI=1S/C26H26ClN5O3.C4H10O/c1-3-32(18(2)33)13-14-34-24-9-6-8-22-25(24)26(30-17-29-22)31-19-10-11-23(21(27)15-19)35-16-20-7-4-5-12-28-20;1-3-5-4-2/h4-12,15,17H,3,13-14,16H2,1-2H3,(H,29,30,31);3-4H2,1-2H3
